US06969716B2
4,2′-Difluoro-5′-[3-(4-fluorophenyl)-[1,2,4]triazin-5-yl]biphenyl-2-carbonitrile
To a mixture of 4,2′-difluoro-5′-(3-methylsulfanyl-[1,2,4]triazin-5-yl)biphenyl-2-carbonitrile (0.11 g, 0.32 mmol), cuprous 3-methylsalicylate (0.153 g, 0.711 mmol) and 4-fluorobenzeneboronic acid (0.1 g, 0.711 mmol) in dry THF (8 ml) was added tetrakis(triphenylphosphine)palladium(0) (0.037 g, 0.032 mmol) and the mixture heated at 50° C. for 5 h. The reaction was allowed to cool to ambient temperature, diluted with DCM (20 ml) and filtered through a glass fibre filter. The dark brown solution was evaporated to give a brown solid. The crude product was chromatographed on silica (eluted with 3% MeOH in DCM) to give the product as a yellow solid. Recrystallisation from DCM/MeOH gave the title compound as a pale yellow solid (52 mg): δH (400 MHz, CDCl3) 7.24 (2H, m), 7.44-7.49 (2H, m), 7.55-7.62 (2H, m), 8.36-8.39 (2H, m), 8.64-8.69 (2H, m), 9.62 (1H, s); m/z (ES+) 389 (M++H).

reactant | 4,2′-difluoro-5′-(3-methylsulfanyl-[1,2,4]triazin-5-yl)biphenyl-2-carbonitrile | 0.32 mmol, 0.11 g | FC=1C=C(C(=CC1)C1=C(C=CC(=C1)C=1N=C(N=NC1)SC)F)C#N | C17H10F2N4S
reactant | 4-fluorobenzeneboronic acid | 0.711 mmol, 0.1 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.032 mmol, 0.037 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4,2′-Difluoro-5′-[3-(4-fluorophenyl)-[1,2,4]triazin-5-yl]biphenyl-2-carbonitrile | FC=1C=C(C(=CC1)C1=C(C=CC(=C1)C=1N=C(N=NC1)C1=CC=C(C=C1)F)F)C#N | C22H11F3N4
